US04038396
A mixture of 6 grams of 3-amino-4-pyridone and 40 grams of benzoic anhydride was heated to 245° C. for 20 minutes. After cooling to about 100° C. the mixture was poured into 200 ml. of benzene and the mixture was extracted 6 times with 2.5 N hydrochloric acid. The combined acid extracts were filtered and the filtrate was made basic with ammonium hydroxide. The resulting precipitate was collected and recrystallized from ethyl acetate to give 2-phenyloxazolo[ 4,5-c]pyridine, m.p. 118°-121° C.

reactant | 3-amino-4-pyridone | 6 grams | NC1C=NC=CC1=O | C5H6N2O
reactant | benzoic anhydride | 40 grams | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
product | 2-phenyloxazolo[ 4,5-c]pyridine | C1(=CC=CC=C1)C=1OC2=C(C=NC=C2)N1 | C12H8N2O
